US05650533
A mixture of magnesium turnings (4.8 g) and carbon tetrachloride (2 ml) in pure ethanol (30 ml) was stirred and warmed gently to 50° C. until the reaction was initiated (effervescence observed). Ether (100 ml) was added cautiously with stirring. A solution of t-butyl 3-oxobutanoate (31.6 g) in ether (100 ml) was added dropwise at such a rate as to maintain the mixture at reflux. Stirring and heating at reflux was continued for 2 hours. A solution of 2-nitro-4-trifluoromethylbenzoyl chloride (50.7 g) in ether (100 ml) was added dropwise and the resultant solution was stirred and heated at reflux for 2.5 hours. The cooled reaction mixture was treated with hydrochloric acid (2M, 100 ml) with stirring and the two layers were separated. The organic phase was extracted with aqueous sodium hydroxide solution (2M, 2×50 ml) and water (4×50 ml). The combined aqueous layers were acidified to pH 1 and extracted with ether (2×100 ml). The combined organic layers were washed with water (50 ml), dried (anhydrous sodium sulphate) and filtered. The filtrate was evaporated to dryness to give t-butyl 2-(2-nitro-4-trifluoromethylbenzoyl)-3-oxobutanoate (62.2 g) as a crude red oil which was not further purified.

reactant | magnesium | 4.8 g | [Mg] | Mg
reactant | t-butyl 3-oxobutanoate | 31.6 g | O=C(CC(=O)OC(C)(C)C)C | C8H14O3
reactant | 2-nitro-4-trifluoromethylbenzoyl chloride | 50.7 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C8H3ClF3NO3
reactant | hydrochloric acid | 2M, 100 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | Ether | 100 ml | CCOCC | C4H10O
solvent | carbon tetrachloride | 2 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | t-butyl 2-(2-nitro-4-trifluoromethylbenzoyl)-3-oxobutanoate | 62.2 g | [N+](=O)([O-])C1=C(C(=O)C(C(=O)OC(C)(C)C)C(C)=O)C=CC(=C1)C(F)(F)F | C16H16F3NO6
